US07544702B2
To N-ethyl-4-(4-methoxy-benzylsulfanyl)-benzenesulfonamide 5.95 g was added trifluoroacetic acid 60 ml containing triethyl silane 3 ml and the mixture heated at 80° C. for 2 h. The reaction mixture was cooled and evaporated in vacuo. The residue was taken up in ethyl acetate and evaporated in vacuo ×2. The residue was then taken up in ethyl acetate and extracted with 2M sodium hydroxide 3×30 ml and the combined aqueous solution washed with ethyl acetate (×1). The aqueous solution was then acidified with conc. hydrochloric acid and extracted with dichloromethane ×3 and the organic solution washed with water, dried MgSO4 and evaporated in vacuo to give N-ethyl-4-mercapto-benzenesulfonamide, as a pale yellow oil, 3.05 g 79%. 1H NMR 7.72 (2H, d), 7.34 (2H, d), 4.65 (1H, bs), 3.70 (1H, s), 2.99 (2H, q), 1.11 (3H, t).

reactant | N-ethyl-4-(4-methoxy-benzylsulfanyl)-benzenesulfonamide | 5.95 g | C(C)NS(=O)(=O)C1=CC=C(C=C1)SCC1=CC=C(C=C1)OC | C16H19NO3S2
reactant | triethyl silane | 3 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-ethyl-4-mercapto-benzenesulfonamide | C(C)NS(=O)(=O)C1=CC=C(C=C1)S | C8H11NO2S2
